US08895313B2
2-(4-{(E)-2-[4-Hydroxy-2-(trifluoromethyl)phenyl]ethenyl}phenyl)-1,3-benzothiazol-6-ol
Prepared as described in the Demethylation section above using 6-methoxy-2-(4-{(E)-2-[4-methoxy-2-(trifluoromethyl)phenyl]ethenyl}phenyl)-1,3-benzothiazole (0.30 g, 0.68 mmol) in dry DCM (10 ml) and BBr3 in DCM (1.0 M, 1.40 ml, 1.40 mmol) at −78° C. give the title compound (0.229 g, 81%) as a yellow solid after work-up and flash chromatography (1:1 Hexane/EtOAc).

reactant | 6-methoxy-2-(4-{(E)-2-[4-methoxy-2-(trifluoromethyl)phenyl]ethenyl}phenyl)-1,3-benzothiazole | 0.68 mmol, 0.30 g | COC1=CC2=C(N=C(S2)C2=CC=C(C=C2)\C=C\C2=C(C=C(C=C2)OC)C(F)(F)F)C=C1 | C24H18F3NO2S
reactant | Hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | BBr3 | B(Br)(Br)Br | BBr3
solvent | DCM | 1.40 mmol, 1.0 M, 1.40 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-{(E)-2-[4-Hydroxy-2-(trifluoromethyl)phenyl]ethenyl}phenyl)-1,3-benzothiazol-6-ol | 0.229 g, 81% | OC1=CC(=C(C=C1)/C=C/C1=CC=C(C=C1)C=1SC2=C(N1)C=CC(=C2)O)C(F)(F)F | C22H14F3NO2S
